US07476671B2
(S)-2-[(2-tert-butyloxycarbonylamino-propyl)amino]-3-(2-butyn-1-yl)-5-(2-cyanophenylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
0.73 g di-tert. butyl pyrocarbonate are added at ambient temperature to a solution of 1.04 g (S)-2-[(2-aminopropyl)amino]-3-(2-butyn-1-yl)-5-(2-cyanophenylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one and 0.54 ml triethylamine in 200 ml dichloromethane. The solution is stirred for 16 h at ambient temperature and then evaporated down. The residue is taken up in ethyl acetate and in each case washed once with water, dilute citric acid, water and saturated aqueous sodium chloride solution. Then the organic phase is dried over sodium sulphate and evaporated down. The residue is purified by chromatography through silica gel (petroleum ether/ethyl acetate 1:1).

reactant | di-tert. butyl pyrocarbonate | 0.73 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-2-[(2-aminopropyl)amino]-3-(2-butyn-1-yl)-5-(2-cyanophenylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 1.04 g | N[C@H](CNC=1N(C2=C(C=NN(C2=O)CC2=C(C=CC=C2)C#N)N1)CC#CC)C | C20H21N7O
reactant | triethylamine | 0.54 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (S)-2-[(2-tert-butyloxycarbonylamino-propyl)amino]-3-(2-butyn-1-yl)-5-(2-cyanophenylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | C(C)(C)(C)OC(=O)N[C@H](CNC=1N(C2=C(C=NN(C2=O)CC2=C(C=CC=C2)C#N)N1)CC#CC)C | C25H29N7O3
